US06960575B2
5-Phenyl-3,4-dihydro-2H-1,4-thiazin-3-one (Reference compound No. 41-1)
Triethylamine (4.55 g) is added to a solution of 2-mercaptoacetamide (8.00 g, Reference compound No. 40-1) in ethanol (70 ml), then phenacyl bromide (17.5 g) is added to the mixture, and the whole is stirred for four hours. The reaction mixture is concentrated under reduced pressure, water and 0.1 N hydrochloric acid are added to the resulting residue, and the whole is extracted with ethyl acetate. The extract is washed with saturated brine and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure. The resulting residue is suspended in ethanol (200 ml), p-toluenesulfonic acid monohydrate (catalytic amount) is added to the suspension, and the mixture is refluxed for five days. The reaction mixture is cooled to room temperature to precipitate crystals. The crystals are filtered off and washed with ethanol to give the titled reference compound (11.6 g).

reactant | Triethylamine | 4.55 g | C(C)N(CC)CC | C6H15N
reactant | 2-mercaptoacetamide | SCC(=O)N | C2H5NOS
reactant | phenacyl bromide | 17.5 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 5-Phenyl-3,4-dihydro-2H-1,4-thiazin-3-one | 11.6 g | C1(=CC=CC=C1)C=1NC(CSC1)=O | C10H9NOS
